US07951787B2
Synthesis of phenyl-(methyl-2-amino-2-methylpropanoate)-phosphorochloridate
This is synthesised according to Standard procedure 4, using 2-aminoisobutyrate methyl ester hydrochloride (583.5 mg, 3.75 mmol), phenyl dichlorophosphate (791.1 mg, 3.75, 560 μL), and TEA (758.9 mg, 7.5 mmol, 1045 μL) in DCM (20 mL), to yield 1.041 g (95.2%) of crude product used without further purification.

reactant | 2-aminoisobutyrate methyl ester hydrochloride | 3.75 mmol, 583.5 mg | Cl.COC(C(C)(C)N)=O
reactant | phenyl dichlorophosphate | 560 μL, 791.1 mg | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | phenyl-(methyl-2-amino-2-methylpropanoate) phosphorochloridate | 1.041 g, 95.2% | C1(=CC=CC=C1)OC(C(CC)(C)N)=O.P([O-])([O-])(=O)Cl | InChI=1S/C11H15NO2.ClH2O3P/c1-3-11(2,12)10(13)14-9-7-5-4-6-8-9;1-5(2,3)4/h4-8H,3,12H2,1-2H3;(H2,2,3,4)/p-2
